US04579859
A solution of 3-nitrobenzaldehyde (3.02 g), 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of acetoacetic acid (7.10 g) and methyl 3-amino-4,4-dimethoxycrotonate (3.50 g) dissolved in tert-butyl alcohol (12 ml) was refluxed for 15 hours. The resulting mixture was cooled and concentrated under reduced pressure. The residue obtained was subjected to column chromatography on silica gel (200 g) and eluted with a mixture of toluene and ethyl acetate (10:1 by volume). The fractions containing the desired compound were collected and evaporated under reduced pressure to give a viscous oil of 3-nitrooxy-2,2-bis(nitrooxymethyl)propyl ester of 5-methoxycarbonyl-6-dimethoxymethyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid (8.60 g).

reactant | 3-nitrobenzaldehyde | 3.02 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetoacetic acid | 7.10 g | C(CC(=O)C)(=O)O | C4H6O3
reactant | methyl 3-amino-4,4-dimethoxycrotonate | 3.50 g | N\C(=C/C(=O)OC)\C(OC)OC | C7H13NO4
solvent | tert-butyl alcohol | 12 ml | C(C)(C)(C)O | C4H10O
product | 5-methoxycarbonyl-6-dimethoxymethyl-2-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylic acid | 8.60 g | COC(=O)C=1C(C(=C(NC1C(OC)OC)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H20N2O8
